Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
Shortness of breath 
 
Major Surgical or Invasive Procedure:
Cardiac Cath (___)

Coronary Anatomy
Right dominant
LM: No disease.
LAD: Mid vessel 70% stenosis. More distal 40% disease. D1 with 
distal 80% disease.
LCx: Large Ramus without disease. Small LCx with ___ 90% 
disease.
RCA: Distal serial 80% stenoses.
Impressions:
CAD in the mid LAD and distal RCA. Small LCx with proximal 
disease.
However, cardiomyopathy still appears out of proportion to CAD.

 
History of Present Illness:
============================================  
___ CARDIOLOGY ADMISSION NOTE  
============================================  
OUTPATIENT CARDIOLOGIST:  Dr. ___ at ___ 
PCP:  ___. MD

CHIEF COMPLAINT:  chest pain & dyspnea 

HISTORY OF PRESENTING ILLNESS:  
Mr. ___ is a ___ man with a history of HTN, HLD, CAD s/p
missed MI with borderline EF & infero-apical-lateral wall
hypokinesis, who presents with 1 month of shortness of breath.
While he was in ___ on one month ago, he ran out of blood
pressure medications. At that time, he started having dyspnea on
exertion and slight non-productive cough. No chest pressure, but
intermittent right-sided sharp chest pain. Pain does not 
radiate,
and not associated with nausea, vomiting, or diaphoresis. His
dyspnea on exertion has been stable, not worsening. He is unsure
if his legs have been swollen. Denies orthopnea & PND. Of note,
his previous MI was not associated with chest pain. 

He presented initially to a clinic, where EKG showed NSR with 
LAD
and new LBBB, so he was transferred for further evaluation. 

- In the ED initial vitals were:  97.9 82 194/127 18 98% RA
- EKG: ECG with NSR, LBBB, STE in V3 ~5mm. Compared to ECG on
___, LBBB is largely unchanged.  
- Labs/studies notable for:  Trop negative, BNP 3880, Creat 1.4.
- Patient was given:  
___ 00:46POAspirin 324 ___
___ 00:50SLNitroglycerin SL .4 ___
___ 00:57SLNitroglycerin SL .4 ___
- Cardiology was consulted, and recommended suspected his
symptoms are related to HTN & volume overload. Recommended
admission for BP control, diuresis, and consideration for
ischemic risk stratification after BP & volume are controlled.
Specifically, recommended labetalol 100mg PO x1 now with goal 
SBP
~140, 20mg IV Lasix x1, and trend troponin/CKMB/ECG 
- Received Lasix 20mg IV, Labetalol 100 mg PO 
- Vitals on transfer:  97.5 ___

- On the floor, he feels well. He still has mild right sided
chest pain, not associated with exertion or a certain position.
No shortness of breath. 

REVIEW OF SYSTEMS:  
Cardiac review of systems is notable for absence of paroxysmal
nocturnal dyspnea, orthopnea, ankle edema, palpitations, 
syncope,
or presyncope.  

On further review of systems, denies any prior history of 
stroke,
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the
time of surgery, myalgias, joint pains, cough, hemoptysis, black
stools or red stools. Denies exertional buttock or calf pain.
Denies recent fevers, chills or rigors. All of the other review
of systems were negative.  
 
Past Medical History:
PAST MEDICAL HISTORY:  
=====================
1. CARDIAC RISK FACTORS  
- No Diabetes  
- + Hypertension  
- + Dyslipidemia  

2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  

3. OTHER PAST MEDICAL HISTORY  
- Gout             
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  Father with CABG in ___. 
 
Physical Exam:
ADMSSION PHYSICAL EXAMINATION:  
=====================
VITALS:  97.5 ___
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.
HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva pink, no pallor
or cyanosis of the oral mucosa. 
NECK: Supple with JVP of 12 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills,
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No wheezes or rhonchi. 
+crackles in bases
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAM:
========================
VS: 98.6 131/87 71 18 95   
GENERAL: Pleasant AA gentleman NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM, good dentition  
NECK: nontender supple neck, no LAD
HEART: RRR, S1 more difficult to hear, normal S2, no murmurs,
gallops, or rubs  
LUNGS: lungs with very mild bilateral crackles at bases, no 
wheezes,
breathing comfortably without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

 
Pertinent Results:
ADMISSION LABS:
WBC-8.5 RBC-5.70 Hgb-16.3 Hct-48.4 MCV-85 MCH-28.6 MCHC-33.7 
RDW-13.3 RDWSD-41.1 Plt ___
Neuts-63.2 ___ Monos-8.9 Eos-1.9 Baso-0.7 Im ___ 
AbsNeut-5.35 AbsLymp-2.11 AbsMono-0.75 AbsEos-0.16 AbsBaso-0.06
___ PTT-32.3 ___
Glucose-87 UreaN-24* Creat-1.4* Na-138 K-4.5 Cl-102 HCO3-24 
AnGap-12

HOSPITAL COURSE NOTABLE LABS:
cTropnT-<0.01 x3
proBNP-3880--> 3665

Urine cx: NGTD

CARDIAC PERFUSION SCAN ___:
FINDINGS: The image quality is adequate but limited due to soft 
tissue attenuation and motion.   
Left ventricular cavity size is increased. 
Resting and stress perfusion images reveal fixed, mild reduction 
in photon 
counts involving the distal anterior wall and the apex.   
Gated images reveal akinesis of the distal anterior wall and the 
apex.  The remaining segments are hypokinetic.   
  
The calculated left ventricular ejection fraction is 24% with an 
EDV of 188 ml. 
  
IMPRESSION: 
  
1. Fixed, small, mild perfusion defect involving the LAD 
territory.  
2. Increased left ventricular cavity size.  Severe systolic 
dysfunction with akinesis of the distal anterior wall and the 
apex, with hypokinesis of the remaining segments.   

TTE ___:
Conclusions   
The left atrial volume index is mildly increased. There is mild 
symmetric left ventricular hypertrophy. The left ventricular 
cavity is mildly dilated. Overall left ventricular systolic 
function is severely depressed (LVEF = 20%) secondary to 
akinesis of the inferior wall, posterior wall, and apex, and a 
dyssynchronous activation sequence. No masses or thrombi are 
seen in the left ventricle. Right ventricular chamber size and 
free wall motion are normal. The ascending aorta is mildly 
dilated. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve leaflets are structurally 
normal. Mild (1+) mitral regurgitation is seen. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion.
 
___:
Coronary Anatomy
Right dominant
LM: No disease.
LAD: Mid vessel 70% stenosis. More distal 40% disease. D1 with 
distal 80% disease.
LCx: Large Ramus without disease. Small LCx with ___ 90% 
disease.
RCA: Distal serial 80% stenoses.
Impressions: CAD in the mid LAD and distal RCA. Small LCx with 
proximal disease. However, cardiomyopathy still appears out of 
proportion to CAD.

DISCHARGE LABS:
WBC-8.1 RBC-5.40 Hgb-15.7 Hct-46.0 MCV-85 MCH-29.1 MCHC-34.1 
RDW-13.9 RDWSD-42.6 Plt ___
Glucose-82 UreaN-22* Creat-1.3* Na-139 K-4.5 Cl-104 HCO3-25 
AnGap-10
Calcium-9.6 Phos-2.8 Mg-2.2
 
Brief Hospital Course:
Mr. ___ is a ___ with a history of HTN, HLD, CAD s/p missed MI 
now presenting who with 1.5 weeks of progressive dyspnea on 
exertion found to have newly depressed LVEF and severe CAD on 
cath. 

# Dyspnea: Pt p/w dyspnea likely ___ CHF. Patient had a nuclear 
exercise stress test that showed severe systolic dysfunction 
with a akinesis of the distal anterior wall and the apex, with 
hypokinesis of the remaining segments. His echo supported these 
findings estimating: a LVEF = 20% secondary to akinesis of the 
inferior wall, posterior wall, and apex, and a dyssynchronous 
activation sequence. 

# HFrEF: Newly depressed ejection fraction most likely in 
setting of uncontrolled HTN (not on medications during trip to 
___, severe CAD, and cardiomyopathy. Patient received lasix 
20mg IV x2 (>900cc urine output on floor) to reduce preload. He 
was not discharged on Lasix. Pt was discharged on amlodipine 10 
mg QD, carvedilol 25 mg PO BID and valsartan 160 mg BID. 

# CAD: Pt received aspirin 81 mg QD and atorvastatin 80 mg QPM 
for CAD.
Patient went for LHC given severely lowered ejection fraction, 
which showed CAD in the mid LAD and distal RCA. Small LCx with 
proximal disease. There were no interventions at this time as 
patient was not experiencing chest pain. The report reads that 
his cardiomyopathy appeared out of proportion to CAD, which 
could merit a cardiac MRI. If patient remains symptomatic with 
exertion, could consider PCI of the LAD and RCA territories with 
demonstration of ischemia.

# HTN: Pt received amlodipine 10 mg PO/NG QD, carvedilol 25 mg 
PO BID and valsartan 160 mg BID. 

TRANSITIONAL ISSUES:
====================
[ ] Consider ICD placement in 3 months pending resolution of 
symptoms with medical management
[ ] If patient remains symptomatic with exertion, could consider 
PCI of the LAD and RCA territories with demonstration of 
ischemia.
[ ] Evaluate outpatient diuretic needs upon follow up. Discharge 
weight: 85.73kg
[ ] Continue titrating blood pressure medications. Discharge BP: 
118/73 (11am) 154/98 (at 8am)
[ ] Discharge Cr: 1.3
[ ] Please repeat BMP and Ca/Mg/Phos within one week, can repeat 
at PCP ___ ___

MEDICATIONS ADDED:
===================
Carvedilol 25 mg PO BID 
Valsartan 160 mg BID DAILY 

MEDICATIONS DISCONTINUED:
=========================
Aliskiren 300 mg PO DAILY 
Metoprolol Succinate XL 50 mg PO DAILY 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 50 mg PO DAILY 
2. amLODIPine 10 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Aliskiren 300 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Carvedilol 25 mg PO BID 
RX *carvedilol 25 mg 1 tablet(s) by mouth twice a day Disp #*180 
Tablet Refills:*3 
2.  Valsartan 160 mg PO BID HTN 
Hold for SBP<90 
RX *valsartan 160 mg 1 tablet(s) by mouth twice a day Disp #*180 
Tablet Refills:*3 
3.  amLODIPine 10 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 
Heart Failure with Reduced Ejection Fraction
Coronary artery disease
Cardiomegaly

Secondary Diagnosis:
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was an absolute pleasure taking care of you at the ___ 
___!  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
You were admitted to the hospital because you had been feeling 
short of breath and you were found to have fluid on your lungs. 
This was felt to be due to a condition called heart failure, 
where your heart does not pump hard enough and fluid backs up 
into your lungs. 

WHAT WAS DONE AT THE HOSPITAL?
==============================
You were given a diuretic medication through the IV to help get 
the fluid out. You had a stress test and an echo, which both 
showed a decrease in your heart output. Your heart arteries were 
examined (cardiac catheterization) which showed some blockages 
of your arteries that feed your heart.

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
===================================================
1.) Please continue to take all of your medications as 
prescribed (listed below) and make sure you have enough of these 
medications, especially before you travel overseas. 
2.) Please follow up with your primary care doctor on ___. 
3.) You will be getting a call from Dr. ___ next 
week. If you do not hear from them by ___, please call her 
office to ___.
4.) We did not discharge you on a diuretic, so please weigh 
yourself every morning after going to the bathroom, and call 
your doctor if your weight goes up more than 3 lbs. Also, please 
call your doctor immediately if you become short of breath, you 
have dizziness, swelling in your leg, or any kind of chest 
pressure/pain. 
 
We wish you the very best!  
-Your ___ Care Team  
 
Followup Instructions:
___